US07576082B2
A suspension of 6-chlorooxindole (1.91 g, 11.4 mmol) (Cresent Chem), 1-BOC-3-piperidone (2.5 g, 12.5 mmol) (Martix Scientific), and pyrrolidine (0.1 g, 1.14 mmol) (Aldrich) in 2-propanol (30 mL) was heated at 90° C. for 2 days. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The aqueous layer was extracted repeatedly with ethyl acetate. The organic layer was separated, combined, dried over Na2SO4 and concentrated. The residue was purified by chromatography (ethyl acetate-dichloromethane, 1:9, V/V) to give rac-5-[6-chloro-2-oxo-2,3-dihydro-1H-indol-3-yl]-3,4-dihydro-2H-pyridine-carboxylic acid tert-butyl ester as a brown solid. (Yield 2.6 g, 67%).

reactant | 6-chlorooxindole | 11.4 mmol, 1.91 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 1-BOC-3-piperidone | 12.5 mmol, 2.5 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | pyrrolidine | 1.14 mmol, 0.1 g | N1CCCC1 | C4H9N
reactant | 2-propanol | 30 mL | CC(C)O | C3H8O
product | rac-5-[6-chloro-2-oxo-2,3-dihydro-1H-indol-3-yl]-3,4-dihydro-2H-pyridine-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1NC=C(CC1)C1C(NC2=CC(=CC=C12)Cl)=O | C18H21ClN2O3
